US06150362
6-[1-(diphenylmethyl)-3-azetidinyl]-1,3,5-triazine-2,4-diamine
A solution of 1-(diphenylmethyl)-3-azetidinecarbonitrile (500 mg, 2.01 mmol), dicyandiamide (220 mg, 2.62 mmol) and KOH (34 mg, 0.604 mmol) in 2-methoxyethanol (10 mL) was heated at reflux for 4 hours, diluted with water, and cooled to room temperature. The precipitate was rinsed with water and dried under vacuum to provide the title compound.

reactant | 1-(diphenylmethyl)-3-azetidinecarbonitrile | 2.01 mmol, 500 mg | C1(=CC=CC=C1)C(N1CC(C1)C#N)C1=CC=CC=C1 | C17H16N2
reactant | dicyandiamide | 2.62 mmol, 220 mg | C(#N)N=C(N)N | C2H4N4
reactant | KOH | 0.604 mmol, 34 mg | [OH-].[K+]
solvent | 2-methoxyethanol | 10 mL | COCCO | C3H8O2
solvent | water | O | H2O
product | 6-[1-(diphenylmethyl)-3-azetidinyl]-1,3,5-triazine-2,4-diamine | C1(=CC=CC=C1)C(N1CC(C1)C1=NC(=NC(=N1)N)N)C1=CC=CC=C1 | C19H20N6
